US07521457B2
a) 4-nitro-1,2-dihydro-indazol-3-one
5 g (27.5 mmol) 2-amino-6-nitro-benzoic acid are combined with 22.2 ml (225.3 mmol) concentrated HCl and 45 ml (30.0 mmol) 5% aqueous sodium nitrite solution and stirred for 1 h at ambient temperature. Then the suspension is diluted with 150 ml dist. H2O and added dropwise to 350 ml destilliertes water which has been saturated with sulphur dioxide. Sulphur dioxide is piped through the reaction mixture for a further 30 min. Then the reaction mixture is refluxed for 30 min and then left to cool slowly to 20° C. The resulting precipitate is filtered off.

reactant | 2-amino-6-nitro-benzoic acid | 27.5 mmol, 5 g | NC1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C7H6N2O4
reactant | HCl | 225.3 mmol, 22.2 ml | Cl | ClH
reactant | sodium nitrite | 30.0 mmol, 45 ml | N(=O)[O-].[Na+]
reactant | sulphur dioxide | S(=O)=O | O2S
solvent | water | O | H2O
product | 4-nitro-1,2-dihydro-indazol-3-one | [N+](=O)([O-])C1=C2C(NNC2=CC=C1)=O | C7H5N3O3
